US04515727
To a mixture of 500 ml of anhydrous ammonia and 100 mg of ferric nitrate in a 2 liter three necked flask equiped with a mechanical stirrer and dry ice condenser was added 3.12 g of lithium wire in small portions. When the blue color had discharged, 14.0 g of 3-butyn-1-ol in 100 ml of tetrahydrofuran was added over 15 minutes and the reaction mixture refluxed for 1 hour. A solution of 34.5 ml of 1-bromooctane in 200 ml of tetrahydrofuran was added and the reaction mixture was allowed to reflux for 90 minutes. At the end of this period the entire reaction mixture was poured onto 1 liter of ice and then saturated with salt. The resulting aqueous solution was extracted twice with 500 ml of ether and the combined ethereal solutions were washed with brine and dried over potassium carbonate. The ether was evaporated and the residue distilled to give 25.13 g of 3-dodecyn-1-ol, b.p. 87°-90° /0.5 mm.

reactant | ammonia | 500 ml | N | H3N
reactant | lithium | 3.12 g | [Li] | Li
reactant | 3-butyn-1-ol | 14.0 g | C(CC#C)O | C4H6O
reactant | 1-bromooctane | 34.5 ml | BrCCCCCCCC | C8H17Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-dodecyn-1-ol | 25.13 g | C(CC#CCCCCCCCC)O | C12H22O
